US04235930
(13E)-(11R,15RS)-11,15-Dihydroxy-15-methyl-9-oxo-13-prosten-18-ynoic Acid
From 270 mg. of (13E)-(11R,15RS)-11-hydroxy-15-methyl-9-oxo-15-(tetrahydropyran-2-yloxy)-13-prosten-18-ynoic acid and 9 ml. of a mixture of glacial acetic acid/water/THF (65/35/10), 190 mg. of the title compound is obtained as an oil in the usual way.

reactant | (13E)-(11R,15RS)-11-hydroxy-15-methyl-9-oxo-15-(tetrahydropyran-2-yloxy)-13-prosten-18-ynoic acid | O[C@@H]1CC([C@H](CCCCCCC(=O)O)[C@H]1\C=C\C(CCC#CC)(OC1OCCCC1)C)=O | C26H40O6
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (13E)-(11R,15RS)-11,15-Dihydroxy-15-methyl-9-oxo-13-prosten-18-ynoic Acid | O[C@@H]1CC([C@H](CCCCCCC(=O)O)[C@H]1\C=C\C(CCC#CC)(C)O)=O | C21H32O5
